US05644056
A method for the preparation of 7,8-difluoro-2,3-dihydro-3-methyl-4H-1,4-benzoxazine either as the optically active s-(-)-7,8-difluoro-2,3-dihydro-3-methyl-4H-1,4-benzoxazine or the racemic mixture. The process of the invention comprises the reaction of 2,3,4-trifluoroaniline or trifluoronitrobenzene with hydroxyacetone or a hydroxyacetone derivative under reducing condition to yield N-(3-hydroxy-2-propyl)-2,3,4-trifluoroaniline derivative. The N-(3-hydroxy-2-propyl)-2,3,4-trifluoroaniline is treated with base to yield the benzoxazine intermediate.

reactant | 7,8-difluoro-2,3-dihydro-3-methyl-4H-1,4-benzoxazine | FC1=C(C2=C(NC(CO2)C)C=C1)F | C9H9F2NO
reactant | 2,3,4-trifluoroaniline | FC1=C(N)C=CC(=C1F)F | C6H4F3N
reactant | trifluoronitrobenzene | FC1=C(C(=C(C=C1)[N+](=O)[O-])F)F | C6H2F3NO2
reactant | hydroxyacetone | OCC(C)=O | C3H6O2
product | N-(3-hydroxy-2-propyl)-2,3,4-trifluoroaniline | OCC(C)NC1=C(C(=C(C=C1)F)F)F | C9H10F3NO
